US04925838
To a suspension of sodium borohydride (0.16 g) in tetrahydrofuran (11 ml) was dropwise added boron trifluoride etherate (2.83 ml) under ice-cooling and the mixture was stirred at the same temperature for 15 minutes. To this solution was added a solution of (2S,4R)-2-(3-acetyl-2-oxoimidazolidin-1-yl)methyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.12 g) in tetrahydrofuran (2.83 ml) under ice-cooling and the mixture was stirred at ambient temperature overnight. To the reaction mixture was added dropwise methanol (30 ml) and the mixture was filtrated. The filtrate was evaporated in vacuo. The resulting residue was dissolved in methanol (30 ml) and conc. hydrochloric acid (0.5 ml) and the solution was allowed to stand at ambient temperature overnight. The reaction mixture was evaporated in vacuo and dissolved in ethyl acetate (50 ml). The solution was washed successively with saturated aqueous sodium hydrogen carbonate and aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of chloroform and methanol (19:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-2-(3-ethyl-2-oxoimidazolidin-1-yl)methyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.04 g).

reactant | sodium borohydride | 0.16 g | [BH4-].[Na+]
reactant | boron trifluoride etherate | 2.83 ml | B(F)(F)F.CCOCC
reactant | (2S,4R)-2-(3-acetyl-2-oxoimidazolidin-1-yl)methyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.12 g | C(C)(=O)N1C(N(CC1)C[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H24N4O9S
reactant | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.83 ml | O1CCCC1 | C4H8O
product | (2S,4R)-2-(3-ethyl-2-oxoimidazolidin-1-yl)methyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.04 g | C(C)N1C(N(CC1)C[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H26N4O8S
